* +++++++++++++++++++++++++++++++++++++++++++++++++++++++++ *
* CDL Netlist:                                              *
*                                                           *
* Cell Name  : AND                                          *
* Netlisted  : Sun Dec  7 11:20:09 2025                     *
* PVS Version: 23.11-s036 Wed Jan 17 18:11:41 PST 2024      *
* +++++++++++++++++++++++++++++++++++++++++++++++++++++++++ *
*.LDD
*.DEVTMPLT 0 MN(g45n1svt) _nmos1v ndiff_conn(D) poly_conn(G) ndiff_conn(S) psubstrate(B)
*.DEVTMPLT 1 MP(g45p1svt) _pmos1v pdiff_conn(D) poly_conn(G) pdiff_conn(S) nwell_conn(B)

* +++++++++++++++++++++++++++++++++++++++++++++++++++++++++ *
* Sub cell: M1_PO_CDNS_765124405380                         *
* +++++++++++++++++++++++++++++++++++++++++++++++++++++++++ *
.subckt M1_PO_CDNS_765124405380 1
** N=1 EP=1 FDC=0
.ends M1_PO_CDNS_765124405380

* +++++++++++++++++++++++++++++++++++++++++++++++++++++++++ *
* Sub cell: M2_M1_CDNS_765124405381                         *
* +++++++++++++++++++++++++++++++++++++++++++++++++++++++++ *
.subckt M2_M1_CDNS_765124405381 1
** N=1 EP=1 FDC=0
.ends M2_M1_CDNS_765124405381

* +++++++++++++++++++++++++++++++++++++++++++++++++++++++++ *
* Sub cell: nmos1v_CDNS_765124405380                        *
* +++++++++++++++++++++++++++++++++++++++++++++++++++++++++ *
.subckt nmos1v_CDNS_765124405380 1 2 3
** N=3 EP=3 FDC=1
M0 2 3 1 1 g45n1svt L=4.5e-08 W=1.2e-07 AD=1.68e-14 AS=1.68e-14 PD=5.2e-07 PS=5.2e-07 fw=1.2e-07 sa=1.4e-07 sb=1.4e-07 sca=6.70537 scb=0.00332581 scc=2.28218e-05 $X=0 $Y=0 $dt=0
.ends nmos1v_CDNS_765124405380

* +++++++++++++++++++++++++++++++++++++++++++++++++++++++++ *
* Sub cell: pmos1v_CDNS_765124405381                        *
* +++++++++++++++++++++++++++++++++++++++++++++++++++++++++ *
.subckt pmos1v_CDNS_765124405381 1 2 3 4
** N=4 EP=4 FDC=1
M0 2 3 1 1 g45p1svt L=4.5e-08 W=2.4e-07 AD=3.36e-14 AS=3.36e-14 PD=7.6e-07 PS=7.6e-07 fw=2.4e-07 sa=1.4e-07 sb=1.4e-07 sca=93.2539 scb=0.0709721 scc=0.0112581 $X=0 $Y=0 $dt=1
.ends pmos1v_CDNS_765124405381

* +++++++++++++++++++++++++++++++++++++++++++++++++++++++++ *
* Sub cell: nmos1v_CDNS_765124405382                        *
* +++++++++++++++++++++++++++++++++++++++++++++++++++++++++ *
.subckt nmos1v_CDNS_765124405382 1 2 3
** N=3 EP=3 FDC=1
M0 3 2 1 1 g45n1svt L=4.5e-08 W=1.2e-07 AD=7.2e-15 AS=1.68e-14 PD=3.6e-07 PS=5.2e-07 fw=1.2e-07 sa=1.4e-07 sb=2.45e-07 sca=6.78406 scb=0.00345708 scc=2.49632e-05 $X=0 $Y=0 $dt=0
.ends nmos1v_CDNS_765124405382

* +++++++++++++++++++++++++++++++++++++++++++++++++++++++++ *
* Sub cell: pmos1v_CDNS_765124405383                        *
* +++++++++++++++++++++++++++++++++++++++++++++++++++++++++ *
.subckt pmos1v_CDNS_765124405383 1 2 3 4
** N=4 EP=4 FDC=1
M0 3 2 1 1 g45p1svt L=4.5e-08 W=1.2e-07 AD=1.92e-14 AS=1.68e-14 PD=5.6e-07 PS=5.2e-07 fw=1.2e-07 sa=1.4e-07 sb=3.45e-07 sca=49.7794 scb=0.0562196 scc=0.00564739 $X=0 $Y=0 $dt=1
.ends pmos1v_CDNS_765124405383

* +++++++++++++++++++++++++++++++++++++++++++++++++++++++++ *
* Sub cell: pmos1v_CDNS_765124405384                        *
* +++++++++++++++++++++++++++++++++++++++++++++++++++++++++ *
.subckt pmos1v_CDNS_765124405384 1 2 3 4
** N=4 EP=4 FDC=1
M0 2 3 1 1 g45p1svt L=4.5e-08 W=1.2e-07 AD=1.92e-14 AS=1.68e-14 PD=5.6e-07 PS=5.2e-07 fw=1.2e-07 sa=1.4e-07 sb=3.45e-07 sca=45.2499 scb=0.0484803 scc=0.00539049 $X=0 $Y=0 $dt=1
.ends pmos1v_CDNS_765124405384

* +++++++++++++++++++++++++++++++++++++++++++++++++++++++++ *
* Sub cell: nmos1v_CDNS_765124405385                        *
* +++++++++++++++++++++++++++++++++++++++++++++++++++++++++ *
.subckt nmos1v_CDNS_765124405385 1 2 3 4
** N=4 EP=4 FDC=1
M0 1 2 3 4 g45n1svt L=4.5e-08 W=1.2e-07 AD=1.68e-14 AS=7.2e-15 PD=5.2e-07 PS=3.6e-07 fw=1.2e-07 sa=2.45e-07 sb=1.4e-07 sca=6.78406 scb=0.00345708 scc=2.49632e-05 $X=0 $Y=0 $dt=0
.ends nmos1v_CDNS_765124405385

* +++++++++++++++++++++++++++++++++++++++++++++++++++++++++ *
* Sub cell: AND                                             *
* +++++++++++++++++++++++++++++++++++++++++++++++++++++++++ *
.subckt AND Vdd Vout a b gnd
** N=7 EP=5 FDC=6
X0 a M1_PO_CDNS_765124405380 $T=1870 -1670 0 0 $X=1770 $Y=-1790
X1 b M1_PO_CDNS_765124405380 $T=2510 -2070 1 180 $X=2410 $Y=-2190
X2 3 M1_PO_CDNS_765124405380 $T=4500 -2020 0 0 $X=4400 $Y=-2140
X3 b M2_M1_CDNS_765124405381 $T=1510 -2070 0 0 $X=1430 $Y=-2200
X4 b M2_M1_CDNS_765124405381 $T=3010 -2070 0 0 $X=2930 $Y=-2200
X5 gnd Vout 3 nmos1v_CDNS_765124405380 $T=4560 -2770 0 0 $X=3980 $Y=-2970
X6 Vdd Vout 3 gnd pmos1v_CDNS_765124405381 $T=4560 -1510 0 0 $X=3880 $Y=-1710
X7 gnd b 7 nmos1v_CDNS_765124405382 $T=2230 -2760 1 180 $X=1940 $Y=-2960
X8 Vdd a 3 gnd pmos1v_CDNS_765124405383 $T=1930 -1320 0 0 $X=1250 $Y=-1520
X9 Vdd 3 b gnd pmos1v_CDNS_765124405384 $T=2430 -1320 1 180 $X=1980 $Y=-1520
X10 3 a 7 gnd nmos1v_CDNS_765124405385 $T=2020 -2760 1 180 $X=1510 $Y=-2960
.ends AND
